US03973033
1-Chloromethyl-5,6,7,8-tetrahydronaphthalene ##SPC1##
61 g (0.376 mol) of (5,6,7,8-tetrahydro-1-naphthyl)methanol with a purity of 78 % are dissolved in 450 ml of chloroform, in the presence of 35 g (0.38 mol) of pyridine. 90 ml of thionyl chloride in solution in 30 ml of chloroform are introduced dropwise and between 30 and 40°C into the solution which is obtained and this is heated under reflux for 6 hours. After partial evaporation of the chloroform and the thionyl chloride excess, washing is carried out with water and with a sodium bicarbonate solution, followed by drying over anhydrous sodium sulphate. Distillation of the oily residue permits the isolation of a liquid of boiling point b.p.0.5 = 81°-83°C, with a purity of 86 % (vapour phase chromatography), and this is taken up in 150 ml of hot hexane. The crystallisation is seeded by scratching with a glass rod. There are isolated 29.5 g of a product melting at 51°-52°C, with a yield of 56 % (theoretical yield = 53 g, depending on the degree of purity of the starting product). Vapour phase chromatography confirms a purity of 100 %.

reactant | (5,6,7,8-tetrahydro-1-naphthyl)methanol | 0.376 mol, 61 g | C1(=CC=CC=2CCCCC12)CO | C11H14O
reactant | pyridine | 0.38 mol, 35 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 90 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Chloromethyl-5,6,7,8-tetrahydronaphthalene | 29.5 g, yield of 56 % | ClCC1=CC=CC=2CCCCC12 | C11H13Cl
